US06232290B1
A mixture of 4-[5-[4-(6-methoxy-n-hexyloxy)phenyl]-1,3,4-thiadiazole-2-yl]benzoic acid (50 g), 1-hydroxybenzotriazole (18 g) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide, hydrochloride (34.86 g) in methylene chloride (1 L) was stirred for 16 hours at room temperature then evaportated under reduced pressure and dried for 1 hour under hi-vacuum. Water (1 L) was added to the residue and the resulting precipitate collected by filtration, washed with water (1 L×5), acetonitrile (1L×5), isopropyl ether (250 ml×2), then dried under hi-vacuum to give 4-[5-[4-(6-methoxy-n-hexyloxy)phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid benzotriazol-1-yl ester (56.92 g) as a yellow powder.

reactant | 4-[5-[4-(6-methoxy-n-hexyloxy)phenyl]-1,3,4-thiadiazole-2-yl]benzoic acid | 50 g | COCCCCCCOC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C22H24N2O4S
reactant | 1-hydroxybenzotriazole | 18 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide, hydrochloride | 34.86 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 4-[5-[4-(6-methoxy-n-hexyloxy)phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid benzotriazol-1-yl ester | 56.92 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)C=2SC(=NN2)C2=CC=C(C=C2)OCCCCCCOC)=O | C28H27N5O4S
